US07705023B2
(b) 2-(4-Bromophenoxy)-2-methylpropanoyl chloride
A mixture of 2-(4-bromophenoxy)-2-methylpropanoic acid (10.0 g, 38.6 mmol). DMF (0.5 mL) and SOCl2 (40 mL) was heated for 3 h, allowed to cool and distilled to yield the sub-title compound (8.4 g, 78%).

reactant | 2-(4-bromophenoxy)-2-methylpropanoic acid | 38.6 mmol, 10.0 g | BrC1=CC=C(OC(C(=O)O)(C)C)C=C1 | C10H11BrO3
reactant | SOCl2 | 40 mL | O=S(Cl)Cl | Cl2OS
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | 2-(4-Bromophenoxy)-2-methylpropanoyl chloride | 8.4 g, 78% | BrC1=CC=C(OC(C(=O)Cl)(C)C)C=C1 | C10H10BrClO2
